US07385061B2
1-Chloro-4-phenyl-but-3-en-2-one
A mixture of 1-chloro-3-(triphenylphosphanylidene)-propane-2-one (2.8 g, 7.9 mmol) and freshly distilled benzaldehyde (0.7 g, 6.6 mmol) in toluene (10 ml) is heated at reflux for 20 hours. Evaporation to dryness yields a mixture containing the title compound that is used in the subsequent step without purification.

reactant | 1-chloro-3-(triphenylphosphanylidene)-propane-2-one | 7.9 mmol, 2.8 g | ClCC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H18ClOP
reactant | benzaldehyde | 6.6 mmol, 0.7 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Chloro-4-phenyl-but-3-en-2-one | ClCC(C=CC1=CC=CC=C1)=O | C10H9ClO
